US08293916B2
Step 7: 2-(2-Chloro-pyridin-4-yl)-1-[5-(4-fluoro-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-ethanone
To 10 ml of dry THF cooled to −65° C. were added 1.35 ml of a 2M solution of Sodium-bis(trimethylsilyl)amide in THF. Then a solution of 0.32 g 2-Chlor-4-methyl pyridine in 1 ml of dry THF was added dropwise maintaining the temperature at −70° C. for 30 min. Then a solution of 0.50 g of 5-(4-Fluoro-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid methoxymethyl-amide in 5 ml of dry THF was added dropwise over a 10 min period maintaining the temperature below −65° C. The solution was stirred for 2 h at −60° C., and then allowed to warm up to 0° C. and stirred for 20 min at this temperature. Then 0.31 ml of Acetic acid was added dropwise at −50° C., and the solution was allowed to warm up to room temperature and stirred overnight. The mixture was concentrated in vaccuo. The residue was taken up in Ethyl acetate. The organic phase was washed with saturated bicarbonate solution and brine, dried over magnesium sulfate, filtered and evaporated. The crude product (0.67 g, yellow oil) was purified by chromatography on silica gel (Heptane/Ethyl acetate 4:1). The desired product was obtained as a white solid (0.27 g, 70%), MS: m/e=344.0 ([M+1]+).

reactant | Sodium-bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-Chlor-4-methyl pyridine | 0.32 g | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | 5-(4-Fluoro-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid methoxymethyl-amide | 0.50 g | COCNC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)F)C | C14H16FN3O2
reactant | Acetic acid | 0.31 ml | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(2-Chloro-pyridin-4-yl)-1-[5-(4-fluoro-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-ethanone | ClC1=NC=CC(=C1)CC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)F)C | C18H15ClFN3O
